US05114918
To a solution of DTrp(Z)-DGlu(OBzl)-OtBu(184 mg, prepared in Example(1-c)), Boc-Ser-DVal-Leu(125 mg, prepared in Example(1-b)) and HOBT.H2O(51 mg) in dichloromethane (1 ml) was added EDCI.HCl(63 mg) under ice cooling. The reaction mixture was stirred at room temperature for 2 h and saturated NaHCO3 (1 ml) was added. The mixture was extracted with dichloromethane(15 ml×3). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by dry column flash chromatography on silica gel(Merck, KIESELGEL 60) with chloroform/methanol(50/1) for elution to give a solid. The solid was dissolved in chloroform and reprecipitated with hexane to give Boc-Ser-DVal-Leu-DTrp(Z)-Glu(OBzl)-OtBu(270 mg) as a colorless powder. The powder(81 mg) was added by portions to TFA(0.8 ml) under ice cooling and the mixture was stirred at room temperature for 1.5 h. TFA was removed in vacuo and the residue was dissolved in methanol and precipitated with water to give Ser-DVal-Leu-DTrp(Z)-DGlu(OBzl)(58 mg) as a colorless powder. The powder(77 mg) was dissolved in DMF(4.5 ml) and the solution was added dropwise over a period of 1.5 h to a solution of HOBT.H2O(21 mg) and EDCL.HCl (21 mg) in DMF(4.5 ml). The reaction mixture was stirred at room temperature for 17 h and concentrated in vacuo. The residue was washed successively with saturated NaHCO3, 1N HCl and water, and dried in vacuo to give cyclo(-DTrp(Z)-DGlu(OBzl)-Ser-DVal-Leu-)(65 mg) as a colorless powder. To a solution of the cyclic pentapeptide(34 mg) in DMF(2 ml) was added 10% Pd/C(17 mg). The mixture was vigorously stirred at room temperature under an atmosphere of hydrogen(under atmospheric pressure) for 2 h and filtered through Celite. The filtrate was concentrated in vacuo. The residue was triturated with water. The obtained precipitate was collected by filtration, washed with water and dried in vacuo to give the title compound(16 mg) as a pale brown powder.

reactant | DTrp(Z)-DGlu(OBzl)-OtBu | 184 mg | N[C@H](CC1=CN(C2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(=O)N[C@H](CCC(OCC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C35H39N3O7
reactant | Boc-Ser-DVal-Leu | 125 mg | N([C@@H](CO)C(=O)N[C@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C19H35N3O7
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 63 mg | CCN=C=NCCCN(C)C.Cl
reactant | NaHCO3 | 1 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 51 mg | O | H2O
product | Boc-Ser-DVal-Leu-DTrp(Z)-Glu(OBzl)-OtBu | 270 mg | N([C@@H](CO)C(=O)N[C@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C54H72N6O13
